US03962282
To a solution of 50 g. of 3,4-methylenedioxycinnamic acid in 200 ml. of a 2 N potassium carbonate solution in a Parr shaker was added 0.5 g. of a five percent palladium on carbon catalyst. Hydrogen was introduced into the reactor to a pressure of 30 psig. The reaction was allowed to proceed until 0.26 moles of hydrogen were taken up (about 4 hours). At the completion of the reaction the mixture was filtered to remove the catalyst. Acidification of the mixture resulted in the precipitation of the desired 3,4-methylenedioxyphenylpropionic acid in 95 percent yield.

reactant | 3,4-methylenedioxycinnamic acid | C1OC=2C=C(C=CC(=O)O)C=CC2O1 | C10H8O4
reactant | potassium carbonate | 2 N | C([O-])([O-])=O.[K+].[K+]
reactant | Hydrogen | [H][H] | H2
reactant | hydrogen | 0.26 moles | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | 3,4-methylenedioxyphenylpropionic acid | 95 percent yield | C1OC=2C=C(C=CC2O1)C(C(=O)O)C | C10H10O4
